US03984419
To 500 ml of liquid NH3 is added a solution of 9.84 g (0.04 mole) of 9a-carboxymethyl-1,2,3,4,4a,9a-hexahydrofluoren-9-ol (JACS 82 2561 (1960)) in 100 ml of THF. The mixture is then treated portionwise with 7 g of lithium cut in small pieces followed dropwise by sufficient absolute ethanol to discharge the blue color. After NH3 has evaporated, the cooled mixture is treated with water and carefully acidified. The desired 9a-carboxymethyl-1,2,3,4,5,8,4a,9a-octahydrofluorene is isolated by extraction with ether, drying and solvent removal.

reactant | NH3 | N | H3N
reactant | 9a-carboxymethyl-1,2,3,4,4a,9a-hexahydrofluoren-9-ol | 0.04 mole, 9.84 g | C(=O)(O)CC12C(C3=CC=CC=C3C2CCCC1)O | C15H18O3
reactant | lithium | 7 g | [Li] | Li
reactant | ethanol | C(C)O | C2H6O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 9a-carboxymethyl-1,2,3,4,5,8,4a,9a-octahydrofluorene | C(=O)(O)CC12CC=3CC=CCC3C2CCCC1 | C15H20O2
